US06613743B2
(3S)tetrahydro-3-furanyl N-((1S,2R)-1-benzyl-3-sec-butoxy[(4-methoxyphenyl)sulf-onyl]amino-2-hydroxypropyl)carbamate.
N-[(2R,3S)-3-amino-2-hydroxy-4-phenylbutyl]-N-(sec-butoxy)-4-methoxybenzenesulfonamide (0.12 mmol, 50 mg), 1-([(3S)tetrahydro-3-furanyloxy]carbonyloxy)dihydro-1H-pyrrole-2,5-dione (0.12 mmol, 29 mg), diisopropylethylamine (0.18 mmol, 0.031 mL) and anhydrous THF (1 mL) were combined and stirred at room temperature for 20 hours. The reaction product was concentrated to a residue, purified directly by silica gel chromatography (2:1 hexanes/ethyl acetate) and crystallized from diethyl ether providing 40 mg (63%) of a white crystal. H1-NMR (CDCl3): δ7.74-7.70 (2H,m), 7.30-7.17 (6H,m), 7.00-6.96 (2H,m), 5.11 (1H,bs), 4.75 (1H,bs), 4.31-4.30 (1H,m), 3.87 (3H,s), 3.87-3.75 (6H,m), 3.65-3.60 (1H,m), 3.21-2.64 (1H,bs), 2.89 (2H,bs), 2.15-2.01 (1H,m), 1.95-1.78 (1H,m), 1.78-1.58 (1H,m), 1.47-1.32 (1H,m), 1.24-1.13 (3H,m), 0.94-0.84 (3H,m); MS (ESI): M+Na=560.

reactant | N-[(2R,3S)-3-amino-2-hydroxy-4-phenylbutyl]-N-(sec-butoxy)-4-methoxybenzenesulfonamide | 0.12 mmol, 50 mg | N[C@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)OC)OC(C)CC)O)CC1=CC=CC=C1 | C21H30N2O5S
reactant | 1-([(3S)tetrahydro-3-furanyloxy]carbonyloxy)dihydro-1H-pyrrole-2,5-dione | 0.12 mmol, 29 mg | O1C[C@H](CC1)OC(=O)ON1C(CCC1=O)=O | C9H11NO6
reactant | diisopropylethylamine | 0.18 mmol, 0.031 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | (3S)tetrahydro-3-furanyl N-((1S,2R)-1-benzyl-3-sec-butoxy[(4-methoxyphenyl)sulf-onyl]amino-2-hydroxypropyl)carbamate | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC(C)CC)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(O[C@@H]1COCC1)=O | C26H36N2O8S
